US07384952B2
To a solution of methyl 4-formylbenzoate (300 mg) in 1,2-dichloroethane (6 mL) is added diethylamine (113 μL), and thereto is added sodium triacetoxyborohydride (581 mg) and acetic acid (261 μL) under ice-cooling. The mixture is stirred at room temperature for 18 hours. The reaction mixture is diluted with chloroform (5 mL) and thereto is added a saturated sodium hydrogencarbonate solution (10 mL). After stirring, the organic layer is separated and concentrated. The resultant crude product is purified by column chromatography on NH-silica gel (Solvent; n-hexane:ethyl acetate=70:30→40:60) to give methyl 4-(diethylaminomethyl)benzoate (144 mg, yield; 60%) as an oil. MS (APCI) m/z: 222 [M+H]+

reactant | methyl 4-formylbenzoate | 300 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | diethylamine | 113 μL | C(C)NCC | C4H11N
reactant | sodium triacetoxyborohydride | 581 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 261 μL | C(C)(=O)O | C2H4O2
product | methyl 4-(diethylaminomethyl)benzoate | 144 mg, yield; 60% | C(C)N(CC)CC1=CC=C(C(=O)OC)C=C1 | C13H19NO2
